US09370522B2
A suspension of methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (80 mg, 0.23 mmol, 1.00 equiv), benzo[d][1,3]dioxol-4-ylboronic acid (59 mg, 0.36 mmol, 1.50 equiv), tricyclohexylphosphine (9 mg, 0.03 mmol, 0.14 equiv), Pd2(dba)3 (13 mg, 0.01 mmol, 0.06 equiv), and K3PO4 (149 mg, 0.80 mmol, 3.00 equiv). in dioxane/H2O (1/0.5 mL) in a 10-mL sealed tube was allowed to react, with stifling, overnight at 95° C. The pH value of the solution was adjusted to 7 with HCl (1N). Purification via silica gel column (dichloromethane:methanol (1:10)) afforded 35 mg (40%) of 3-(benzo[d][1,3]dioxol-5-yl)-2-phenylquinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.23 mmol, 80 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | benzo[d][1,3]dioxol-4-ylboronic acid | 0.36 mmol, 59 mg, 1.50 equiv | O1COC2=C1C=CC=C2B(O)O | C7H7BO4
reactant | tricyclohexylphosphine | 0.03 mmol, 9 mg, 0.14 equiv | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | K3PO4 | 0.80 mmol, 149 mg, 3.00 equiv | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | dioxane H2O | 0.5 mL | O1CCOCC1.O
catalyst | Pd2(dba)3 | 0.01 mmol, 13 mg, 0.06 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(benzo[d][1,3]dioxol-5-yl)-2-phenylquinoxaline-6-carboxylic acid | 35 mg, 40% | O1COC2=C1C=CC(=C2)C=2C(=NC1=CC=C(C=C1N2)C(=O)O)C2=CC=CC=C2 | C22H14N2O4
